US06509345B2
Step 2: Methyl 2-[3-(1,3-dioxolan-2-yl)-2-fluoro-4-pyridinyl]-2-hydroxybutanoate
6.9 ml (11 mmol) of 1.6M butyllithium in hexane are added dropwise to a solution, stirred at −78° C. under an argon atmosphere, of 3.1 g (11 mmol) of 3-(1,3-dioxolan-2-yl)-2-fluoro-4-iodopyridine in 100 ml of THF. The reaction mixture is then stirred for 10 minutes at −78° C. before the dropwise addition of a solution of 1.5 g (13 mmol) of methyl 2-oxo-butyrate in 20 ml of THF. The mixture is stirred for 3 hours at −78° C., hydrolysed with a mixture of water/THF, and decanted. The aqueous phase is extracted 3 times with 50 ml of ethyl acetate each time, and the combined organic phases are dried over magnesium sulphate and then concentrated. The expected product is obtained by purification of the residue by chromatography over silica (eluant:dichloromethane/acetone 95/5).

reactant | butyllithium | 11 mmol, 1.6M, 6.9 ml | C(CCC)[Li]
reactant | 3-(1,3-dioxolan-2-yl)-2-fluoro-4-iodopyridine | 11 mmol, 3.1 g | O1C(OCC1)C=1C(=NC=CC1I)F | C8H7FINO2
reactant | methyl 2-oxo-butyrate | 13 mmol, 1.5 g | O=C(C(=O)OC)CC | C5H8O3
reactant | water THF | O.C1CCOC1
solvent | hexane | CCCCCC | C6H14
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | Methyl 2-[3-(1,3-dioxolan-2-yl)-2-fluoro-4-pyridinyl]-2-hydroxybutanoate | O1C(OCC1)C=1C(=NC=CC1C(C(=O)OC)(CC)O)F | C13H16FNO5
